Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ is a ___ male w/ past medical history of HTN, BPH
requiring intermittent foley placement, diverticulosis and DMTII
presenting with  abdominal pain since ___. He feels as
though his abdomen has become more distended. He denies N/V or
diarrhea. No changes to his stool, still having good BMs without
blood or melena. He notes some decreased appetite yesterday due
to his pain, but otherwise denies decreased PO intake. No 
fevers,
chills, cough or dysuria.   

Of note pt has been following w/ atrius urology for his BPH w/
associated urinary retention. He was was recently seen ___ 
when
his foley was removed for a voiding trial. Pt has known enlarged
prostate measured at 290ml by U/S in ___. Per urology, if he
fails this voiding trial he may either need "chronic indwelling
versus surgical simple prostatectomy (though latter may be
difficult given age and comorbidities)". Self-catheterization 
not
an option given visual impairment. Per Atrius records, pt
recently had UCx w/ pansensitive enterococcus, however pt and 
his
family deny that he was ever treated for UTIs. His b/l 
creatinine
as of ___ was 1.14. 

In the ED:

Initial vital signs were notable for: T 98.0, HR 76, BP 144/70,
RR 16 

Exam notable "Notable for epigastric and RUQ belly pain, marked
suprapubic tenderness and distension, no rebound tenderness, no
CVA tenderness."

Labs were notable for: Na 132, BUN 75, Cr 5.1, Lactate 2.3, UA 
w/
Mod bld, 28 RBC, 24 WBC, few bacteria, Leukocytosis to 30.4,
neutrophilic ___ 87.3 

Studies performed include: 
CT Abd/Pelvis 
1. Probable mild intrahepatic biliary dilatation.
2. Possible punctate, nonobstructing renal stones within the
right kidney.
3. 1.6 cm intermediate density lesion within the upper pole of
the right
kidney. A nonemergent renal ultrasound is recommended for 
further
evaluation.
4. Nonspecific, mild fat stranding around the sigmoid colon.
5. Marked prostatomegaly.
6. Aneurysmal dilatation of the left common iliac artery,
measuring up to 2.9
cm.

Patient was given:
NS @ 250 cc/hr 
Zosyn 

Consults: None 

Vitals on ___ 0844 Temp: 97.8 PO BP: 106/62 HR: 81
RR: 20 O2 sat: 100% O2 delivery: RA 

Upon arrival to the floor, pt endorsed the above, however he is
very hard of hearing and has poor eyesight and his exam was thus
limited by this. His abdominal pain is improving s/p foley
insertion. 
 
Past Medical History:
DMTII 
HTN 
BPH c/b urinary retention 
 
Social History:
___
Family History:
Unable to obtain 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
PHYSICAL EXAM 
Vitals: ___ Temp: 97.8 PO BP: 106/62 HR: 81 RR: 20 O2
sat: 100% O2 delivery: RA 
GENERAL: Pleasant elderly gentleman who is very hard of hearing 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
Dry mucous membranes 
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD appreciable.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: +Mild abdominal distension, +diffuse tenderness,
greatest suprapubicly, +BS  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Exam limited by deafness, moves all 4 extremities, 
no
asterixis, knows he is in hospital, it is summer, ?not oriented
to year. ?language barrier 
GU: Foley in place w/ blood tinged urine 

DISCHARGE PHYSICAL EXAM
=======================
 
Pertinent Results:
ADMISSION LABS 
==============
___ 08:05PM BLOOD WBC-30.4* RBC-3.40* Hgb-10.5* Hct-30.9* 
MCV-91 MCH-30.9 MCHC-34.0 RDW-15.8* RDWSD-52.3* Plt ___
___ 08:05PM BLOOD Neuts-87.3* Lymphs-2.6* Monos-7.8 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-26.57* AbsLymp-0.78* 
AbsMono-2.36* AbsEos-0.08 AbsBaso-0.06
___ 08:05PM BLOOD Plt Smr-NORMAL Plt ___
___ 08:05PM BLOOD Glucose-147* UreaN-81* Creat-5.9* Na-127* 
K-5.1 Cl-91* HCO3-21* AnGap-15
___ 10:34PM BLOOD ALT-32 AST-35 AlkPhos-77 TotBili-0.7
___ 10:34PM BLOOD Albumin-3.1*
___ 01:06PM BLOOD Calcium-9.1 Phos-3.7 Mg-2.1
___ 10:43PM BLOOD Lactate-2.3*

PERTINENT/INTERVAL LABS
======================

DISCHARGE LABS
==============

MICROBIOLOGY
============
**FINAL REPORT ___
   Blood Culture, Routine (Final ___: 
      AEROCOCCUS URINAE.    FINAL SENSITIVITIES. 
         test result performed by Sensititre. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             AEROCOCCUS URINAE
                             |   
CEFTRIAXONE-----------     2 S
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
     
___ 11:05 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      AEROCOCCUS URINAE.    >100,000 CFU/mL. 
         Susceptibility testing performed on culture # ___ 
___. 

___ 11:05 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      AEROCOCCUS URINAE. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 
      Reported to and read back by ___. ___ ___ 
10:34AM. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 

IMAGING/STUDIES
===============

CT A/P (___) 
IMPRESSION:
1. Small bowel loops are diffusely dilated and fluid-filled.  
The differential
includes ileus and partial small-bowel obstruction, with early 
partial small
bowel obstruction favored with a transition point in the low 
right anterior
abdomen.  No signs worrisome for bowel ischemia within the 
confines of an
unenhanced scan.
2. Unchanged extensive severe atherosclerotic disease with focal 
ectasia of
the infrarenal abdominal aorta and left common iliac artery 
aneurysm with
suggestion of associated chronic dissection.
3. Unchanged incompletely characterized renal lesions, 
statistically cysts and
hemorrhagic or proteinaceous cysts.  As before, nonemergent 
renal ultrasound
is recommended to exclude suspicious lesion.
4. Marked prostatomegaly.
 
CT A/P (___) 
IMPRESSION: 
The study is limited by patient motion.  Within this limitation:
1. Mild bronchial wall thickening within the left lower lobe, 
with
ground-glass opacities of the bilateral lower lobes, may be 
compatible with
aspiration or pneumonia.
2. Possible punctate, nonobstructing renal stones within the 
right kidney.
3. 1.6 cm intermediate density lesion within the upper pole of 
the right
kidney, along with multiple, subcentimeter bilateral hyperdense 
cysts.  A
nonemergent renal ultrasound can be obtained for further 
evaluation.
4. Marked prostatomegaly.
5. Aneurysmal dilatation of the left common iliac artery, 
measuring up to 2.9
cm.
 
TTE (___) 
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normalcavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Overall leftventricular systolic function is normal. 
The visually estimated left ventricular ejection fraction is 
70%.
There is no resting left ventricular outflow tract gradient. 
Mildly dilated right ventricular cavity with normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve is not well seen. No masses 
or
vegetations are seen on the aortic valve. Aortic valve stenosis 
is present (not quantified). There is mild [1+] aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. No masses or vegetations are seen 
on the mitral valve. There is moderate mitral annular 
calcification.
There is mild to moderate [___] mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral regurgitation could 
be UNDERestimated. The tricuspid valve leaflets appear 
structurally normal. No mass/vegetation are seen on the 
tricuspid valve. There is mild to moderate [___] tricuspid 
regurgitation.
There is moderate pulmonary artery systolic hypertension. There 
is no pericardial effusion.
IMPRESSION: No 2D echocardiographic evidence for endocarditis. 
If clinically suggested, theabsence of a discrete vegetation on 
echocardiography does not exclude the diagnosis of endocarditis. 
Suboptimal image quality.

 
Brief Hospital Course:
==================
SUMMARY STATEMENT
==================
___ male w/ past medical history of HTN, BPH requiring 
intermittent foley placement, diverticulosis and DMTII 
presenting with abdominal pain, distension and urinary 
retention, found to have ___ ___ obstructive uropathy and 
Aerococcus bacteremia (urinary source). His course was 
complicated by a persistent Ileus requiring NGT placement, 
resolved by the time of discharge. 

=====================
TRANSITIONAL ISSUES 
=====================
[] ___ Service Worker (Inestina, ___ from 
___ is reviewing his case for concern 
of abuse from his son ___ contact regarding resolution.
[] Iliac aneurysm (2.9 x 2.6 cm, associated chronic dissection) 
noted incidentally on CT A/P 
[] Pt is very hard of hearing, recommend evaluation to be fit 
with hearing aids 
[] Pt had a labile Na this admission, please check Chem-7 within 
1 week
[] Please continue to encourage PO intake, if seems adequate may 
need to consider resuming tube feeds

Discharge Cr 1.1
Discharge Na 144

NEW MEDICATIONS 
Amlodipine 
Bacitracin ointment

MEDICATIONS WE STOPPED 
Hydrochlorothiazide

===========================
HOSPITAL COURSE BY PROBLEM 
===========================
ACUTE ISSUES: 
=============

#Aerococcus urinae bacteremia 
#Aerococcus urinae UTI
Patient presented with leukocytosis, abdominal pain, suprapubic 
tenderness, and confusion and was started on broad spectrum 
antibiotics for presumed infection of urinary source. Blood and 
urine cultures grew Aerococcus urinae. A TTE was negative for 
any vegetations. The patient was transitioned to ceftriaxone and 
completed a fourteen day treatment course on ___. 

#Ileus: The patient initially developed large volume bilious 
emesis, and KUB and CT-scan were suggestive of ileus vs SBO. An 
NGT was placed with large bilious output for decompression. 
Surgery was consulted and they recommended medical management 
with aggressive bowel regimen and NGT decompression. Given his 
lack of abdominal surgery, the suspected obstruction was thought 
to be most likely to resolving ileus in the setting of infection 
with possible distal constipation ___ prostatomegaly. However, 
true partial SBO secondary to prostate enlargement was not 
definitively ruled out. The patient improved with an aggressive 
bowel regimen and 5 days of bowel rest, prior to starting tube 
feeds for nutrition. Speech and swallow evaluated him and 
initially cleared him for a dysphagia soft diet, however the 
patient refused to eat the food. His PO intake improved when his 
diet was advanced to regular solids, nectar thick liquids. He 
was kept on tube feeds until the day of discharge, when his NG 
tube was taken out.

___, resolved 
#Obstructive Uropathy ___ severe BPH 
Pt presenting with significant ___ (5.9 on admission from b/l 
1.2) w/ very enlarged prostate on CT A/P here (8.8 x 7.0 x 10.0 
cm with an estimated volume of 322.5) a noted interval increase 
from U/S in ___ estimating volume ~230cc. The patient had been 
undergoing a voiding trial with his outpatient urologist prior 
to admission (started ___. Pt has likely been retaining urine 
since this time, and this obstructive uropathy is the most 
likely cause of his severe ___ (5.9 on admission),especially 
given improvement w/ foley placement. His renal function 
normalized prior to discharge and his foley will likely to be 
continued indefinitely. We continued his finasteride and 
tamsulosin (though the former was held briefly while patient was 
unable to take PO). 

#Urethral erosion
The patient developed mild urethral erosion on ___. Urology 
evaluated him and considered that it represented erosion from 
his chronic Foley. They recommended applying bacitracin ointment 
twice a day. He will have a follow up appointment with Urology 
to assess his need for chronic Foley. 

# Concern for elder abuse
On ___ patient noted that his son ___, had hit him in the 
face several months ago, noting repeatedly that he has "badness" 
in his mind. Additionally there was the concern for financial 
exploitation. Social Work was consulted and contacted Elder 
Services, who appointed a Protective Service Worker (Inestina, 
___ to review his case. They will continue to review 
the case while he's in rehab.

#Hypo/HyperNa 
The patient showed labile sodium the setting of no PO intake and 
resolving ___. He stabilized after IVF, TFs and eventually PO 
intake. His discharge Na was 144. He would benefit from repeat 
electrolytes after discharge.

#Diarrhea
The patient developed diarrhea on ___ which was believed to 
result from chronic tube feeds. A C. difficile was sent which 
was negative. His diarrhea resolved after discontinuing his tube 
feeds.

CHRONIC ISSUES
==============

#HTN
We held his hydrochlorothiazide given his acute kidney injury. 
He was well controlled on amlodipine and his home lisinopril. He 
will be discharged on amlodipine.

#DM2
He was not taking medications at home, he was placed on a 
correctional sliding scale with meals

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care..
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
3. Finasteride 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Bacitracin Ointment 1 Appl TP BID Urethral ulcer 
RX *bacitracin zinc 500 unit/gram Apply to affected area Twice a 
day Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Finasteride 5 mg PO DAILY 
Please provide liquid form  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  Lisinopril 40 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Obstructive Uropathy 
Aerococcus Bacteremia 
Urinary tract infection 

===================
SECONDARY DIAGNOSIS
===================
Acute kidney injury
Ileus
Hypernatremia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___! 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were having abdominal pain and found to have an infection 
and your kidneys weren't working properly

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL? 
- A Foley catheter was placed to help you urinate and relieve 
your kidneys
- You were treated with antibiotics for bloodstream and urinary 
tract infection 
- You were having trouble moving your bowels so a tube was place 
in your nose (NGT) to relieve your pain and give you adequate 
nutrition

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL? 
- Continue taking all your medications
- You will follow up with urology regarding your large prostate 
and urinary retention

New medications: Amlodipine, bacitracin ointment
Holding/stopping medications: Hydrochlorothiazide

Discharge Cr 1.1
Discharge weight 61.7 kg (136.02 lb)    

We wish you all the best! 
- Your ___ Care Team
 
Followup Instructions:
___